US07423030B2
47.4. 4-Benzyloxymethyl-7-methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine dihydrochloride
This compound is obtained according to the procedure described in 1.4. by reacting 4-benzyloxymethyl-1-chloro-7-methoxyphthalazine with 4-amino-1-(naphthalen-2-ylmethyl)piperidine.

reactant | 4-benzyloxymethyl-1-chloro-7-methoxyphthalazine | C(C1=CC=CC=C1)OCC1=NN=C(C2=CC(=CC=C12)OC)Cl | C17H15ClN2O2
reactant | 4-amino-1-(naphthalen-2-ylmethyl)piperidine | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
product | 4-Benzyloxymethyl-7-methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)OCC1=NN=C(C2=CC(=CC=C12)OC)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | InChI=1S/C33H34N4O2.2ClH/c1-38-29-13-14-30-31(20-29)33(36-35-32(30)23-39-22-24-7-3-2-4-8-24)34-28-15-17-37(18-16-28)21-25-11-12-26-9-5-6-10-27(26)19-25;;/h2-14,19-20,28H,15-18,21-23H2,1H3,(H,34,36);2*1H
